US03998834
To start the reaction, a small amount of a solution of 101.4 parts of iodomethane in 81 parts of dry 1,1'-oxybisethane is dropped to a stirred solution of 8.95 parts of lithium in 81 parts of dry 1,1'-oxybisethane. After the addition of 244 parts of dry 1,1'-oxybisethane, the remainder of the solution is added dropwise at reflux temperature. Stirring at reflux is continued for 1 hour. Then there are added portionwise 23 parts of 4-[(3-methoxyphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxylic acid (a violent reaction occurs whereby reflux temperature is maintained). Upon completion, stirring at reflux is continued for 1 hour. The reaction mixture is decomposed by the dropwise addition (carefully) of water. The organic phase is separated, washed with water, dried, filtered and evaporated. The oily residue is purified twice by column-chromatography over silica gel using first a mixture of trichloromethane and 6% of methanol and then a mixture of trichloromethane and 4% of methanol is eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off, dried and crystallized twice from methanol, yielding 3.08 parts (96.5%) of 1-{4-[(3-methoxyphenyl)amino]-1-(2-phenylethyl)-4-piperidinyl}ethanone ethanedioate; mp. 188° C.

reactant | iodomethane | IC | CH3I
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | lithium | [Li] | Li
reactant | 4-[(3-methoxyphenyl)amino]-1-(2-phenylethyl)-4-piperidinecarboxylic acid | COC=1C=C(C=CC1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C21H26N2O3
reactant | water | O | H2O
product | 1-{4-[(3-methoxyphenyl)amino]-1-(2-phenylethyl)-4-piperidinyl}ethanone ethanedioate | 96.5% | C(C(=O)O)(=O)O.COC=1C=C(C=CC1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(C)=O | InChI=1S/C22H28N2O2.C2H2O4/c1-18(25)22(23-20-9-6-10-21(17-20)26-2)12-15-24(16-13-22)14-11-19-7-4-3-5-8-19;3-1(4)2(5)6/h3-10,17,23H,11-16H2,1-2H3;(H,3,4)(H,5,6)
